US08084470B2
A suspension of 8.0 g (51.5 mmol) of 2-mercaptonicotinic acid, 5.8 g (51.5 mmol) of 2-(aminomethyl)-thiophene and 3.5 g (25.8 mmol) of phosphorus trichloride in chlorobenzene (260 ml) was heated for 3 h under reflux (145° C.). When the reaction solution had cooled to 60° C., filtration with suction was carried out at that temperature. The solid obtained was taken up in a DCM/MeOH mixture (3:1, vv, 300 ml) and washed with water (2×50 ml). The organic phase was dried over MgSO4, filtered and concentrated in vacuo. Crystallization of the residue from ethyl acetate yielded 3.1 g (12.4 mmol, 24%) of 2-mercapto-N-(thiophen-2-ylmethyl)nicotinamide.

reactant | 2-mercaptonicotinic acid | 51.5 mmol, 8.0 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | 2-(aminomethyl)-thiophene | 51.5 mmol, 5.8 g | NCC=1SC=CC1 | C5H7NS
reactant | phosphorus trichloride | 25.8 mmol, 3.5 g | P(Cl)(Cl)Cl | Cl3P
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | chlorobenzene | 260 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-mercapto-N-(thiophen-2-ylmethyl)nicotinamide | 12.4 mmol, 3.1 g, 24% | SC1=C(C(=O)NCC=2SC=CC2)C=CC=N1 | C11H10N2OS2
